US08034812B2
Production of N-[3-({2-[(cyclopentylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide
Using N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide (150 mg, 0.362 mmol), cyclopentanecarbonyl chloride (53 μL, 0.435 mmol), triethylamine (75 μL, 0.544 mmol) and tetrahydrofuran (5 mL) as starting materials and in the same manner as in Example 388, the title compound (105 mg, 57%) was obtained as a white powder.

reactant | N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide | 0.362 mmol, 150 mg | NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C20H14F3N5O2
reactant | cyclopentanecarbonyl chloride | 0.435 mmol, 53 μL | C1(CCCC1)C(=O)Cl | C6H9ClO
reactant | triethylamine | 0.544 mmol, 75 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-[3-({2-[(cyclopentylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide | 105 mg, 57% | C1(CCCC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C26H22F3N5O3
